US06242474B1
Production of (E)-3-(4-bromo-1-(2,4-dichlorobenzyl)-2-methylimidazol-5-yl)-2-propenoic acid
Methyl (E)-3-(4-bromo-1-(2,4-dichlorobenzyl)-2-methyl-imidazol-5-yl)-2-propenoate (800 mg) was dissolved in 20 ml of methanol, and then 20 ml of 1N sodium hydroxide was added to the solution. After being heated under reflux for 30 minutes, the solution was adjusted to an acidic pH with 1N hydrochloric acid under cooling with ice, and extracted with dichloromethane. The organic layer was washed with a sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to yield 762 mg of white crystals of (E)-3-(4-bromo-1-(2,4-dichlorobenzyl)-2-methylimidazol-5-yl)-2-propenoic acid.

reactant | Methyl (E)-3-(4-bromo-1-(2,4-dichlorobenzyl)-2-methyl-imidazol-5-yl)-2-propenoate | 800 mg | BrC=1N=C(N(C1/C=C/C(=O)OC)CC1=C(C=C(C=C1)Cl)Cl)C | C15H13BrCl2N2O2
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | (E)-3-(4-bromo-1-(2,4-dichlorobenzyl)-2-methylimidazol-5-yl)-2-propenoic acid | 762 mg | BrC=1N=C(N(C1/C=C/C(=O)O)CC1=C(C=C(C=C1)Cl)Cl)C | C14H11BrCl2N2O2
